US07642276B2
N-Cyclopropyl-4-methyl-3-[1-(4-piperidinyl)-1H-indazol-5-yl]benzamide hydrochloride
A suspension of 1,1-dimethylethyl 4-(5-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-1H-indazol-1-yl)-1-piperidinecarboxylate Example 115) (0.01 g) in a solution of hydrogen chloride in dioxan (4M, 1 ml) was treated with methanol (0.25 ml) to give a solution which was stirred at room temp. for 18 h. The solvent was evaporated and the residue was dried under vacuum to give the title compound (0.009 g).

reactant | 1,1-dimethylethyl 4-(5-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-1H-indazol-1-yl)-1-piperidinecarboxylate | C1(CC1)NC(=O)C=1C=CC(=C(C1)C=1C=C2C=NN(C2=CC1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C28H34N4O3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 0.25 ml | CO | CH4O
solvent | dioxan | 4M, 1 ml | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-4-methyl-3-[1-(4-piperidinyl)-1H-indazol-5-yl]benzamide hydrochloride | 0.009 g | Cl.C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN(C2=CC1)C1CCNCC1)=O | InChI=1S/C23H26N4O.ClH/c1-15-2-3-17(23(28)26-19-5-6-19)13-21(15)16-4-7-22-18(12-16)14-25-27(22)20-8-10-24-11-9-20;/h2-4,7,12-14,19-20,24H,5-6,8-11H2,1H3,(H,26,28);1H
